US04670540
(3) Synthesis of Boc-Phe-D-Ala-Gly-OH
Boc-Phe-D-Ala-Gly-OBzl (2.4 g, 4.96 mmole) was dissolved in MeOH (50 ml), and H2 gas was passed through the solution in the presence of Pd-C for 4 hours. Pd-C was removed by filtration, and MeOH was distilled off. To the thus-obtained residue MeOH/Et2O and N-hexane were added. The thus-precipiated powder was separated by filtration and reprecipitated with AcOEt/n-hexane to obtain the desired product (1.95 g, 100%). (4) Synthesis of Z-Cys(4-CH3Bzl)-Phe-D-Ala-Gly-OH

reactant | Boc-Phe-D-Ala-Gly-OBzl | 4.96 mmole, 2.4 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H33N3O6
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | Boc-Phe-D-Ala-Gly-OH | 1.95 g, 100% | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C19H27N3O6
